US05792765
5-(2-Pyridyl)-thiophene-2-carboxylic Acid Azide
20 g (97.45 mmol) of 5-(2-pyridyl)-thiophene-2-carboxylic acid are dissolved in 200 ml of acetone, and the solution is treated with 15.94 ml (115 mmol) of Et3N and cooled to 0° C. A solution of 14.85 ml (115 mmol) of isobutyl chloroformate in 88 ml of acetone is slowly added dropwise with stirring to the reaction solution thus obtained. After 1 h at 0° C., a solution of 9.5 g (146 mmol) of sodium azide in 44 ml of water is added dropwise, and the mixture is stirred at 0° C. for 1 h and allowed to come to room temperature. The reaction mixture is tipped onto ice water and the precipitate is filtered off with suction and reacted further as it is.

reactant | 5-(2-pyridyl)-thiophene-2-carboxylic acid | 97.45 mmol, 20 g | N1=C(C=CC=C1)C1=CC=C(S1)C(=O)O | C10H7NO2S
reactant | Et3N | 115 mmol, 15.94 ml | CCN(CC)CC | C6H15N
reactant | isobutyl chloroformate | 115 mmol, 14.85 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium azide | 146 mmol, 9.5 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 88 ml | CC(=O)C | C3H6O
solvent | water | 44 ml | O | H2O
product | 5-(2-Pyridyl)-thiophene-2-carboxylic Acid Azide | N1=C(C=CC=C1)C1=CC=C(S1)C(=O)N=[N+]=[N-] | C10H6N4OS
